US04937249
Bicyclo[2.2.2]octane-2,3-dicarboximide:
A solution of bicyclo[2.2.2]octane-2,3-dicarboxylic anhydride (3 g; 16.6 mmol) in tetrahydrofuran (9 ml) was dropwise added to a mixture of 29% aqueous ammonia (6 g; 83 mmol) and water (18 ml) while ice-cooling, and the resultant mixture was heated. After removal of the solvent by distillation under an ordinary pressure, acetic anhydride (10 ml) was added thereto, followed by refluxing for 30 minutes. The solvent was removed by distillation under reduced pressure, and the residue was combined with toluene (24 ml) and heated to dissolve. After cooling, the precipitated crystals were collected by filtration to give the objective compound. M.P., 199 -200° C.

reactant | bicyclo[2.2.2]octane-2,3-dicarboxylic anhydride | 16.6 mmol, 3 g | C12C3C(C(CC1)CC2)C(=O)OC3=O | C10H12O3
reactant | ammonia | 83 mmol, 6 g | N | H3N
reactant | water | 18 ml | O | H2O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | Bicyclo[2.2.2]octane-2,3-dicarboximide | C12C3C(C(CC1)CC2)C(NC3=O)=O | C10H13NO2
